US07541372B2
N-{3-Methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-propionamide
To a solution of 3-methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenylamine (200 mg, 0.57 mmol) in tetrahydrofuran (4 mL) were added N,N-diisopropylamine (111 mg, 0.86 mmol), 4-dimethylaminopyridine (7.0 mg, 0.06 mmol) and propionyl chloride (69 mg, 0.75 mmol) and the reaction mixture was stirred at ambient temperature for 22 h. After heating at 50° C. for another 26 h the resulting suspension was extracted with ethyl acetate (20 mL) and the combined organic layers were washed with aqueous sodium carbonate (saturated). Drying over sodium sulfate and concentration afforded the title compound (206 mg, 89%) as a yellow solid. MS: m/e=405.3 [M+H]+.

reactant | 3-methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenylamine | 0.57 mmol, 200 mg | COC=1C=C(C=CC1C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)N | C19H16N4O3
reactant | N,N-diisopropylamine | 0.86 mmol, 111 mg | C(C)(C)NC(C)C | C6H15N
reactant | propionyl chloride | 0.75 mmol, 69 mg | C(CC)(=O)Cl | C3H5ClO
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.06 mmol, 7.0 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-{3-Methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-propionamide | 206 mg, 89% | COC=1C=C(C=CC1C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)NC(CC)=O | C22H20N4O4
